US03952012
5-(3'Chloro-p-toluoyl)-1-methylpyrrole-2-acetonitrile:
21.4 Grams (0.114 mole) of 3-chloro-4-methylbenzoylchloride is added to a suspension of 15.2 g. (0.114 mole) aluminum chloride in 50 ml. 1,2-dichloroethane. The resulting solution is added dropwise to a chilled solution of 13.7 g. (0.114 mole) of 1-methylpyrrole-2-acetonitrile in 50 ml. 1,2-dichloroethane. After the addition is complete, the mixture is stirred for ten minutes at room temperature and then heated to reflux for three minutes. It is poured into ice acidified with dilute HCl. The organic phase is separated and washed consecutively with N,N-dimethyl-1,3-propanediamine, 3N hydrochloric acid and saturated sodium chloride solution. It is then dried over anhydrous magnesium sulfate and the solvent evaporated off. A white solid, 5-(3'-chloro-p-toluoyl)-1-methylpyrrole-2-acetonitrile, precipitates from the resulting oily residue upon trituration with methanol which is purified by recrystallization from methanol, m.p. 116°-118°C.

reactant | 3-chloro-4-methylbenzoylchloride | 0.114 mole | ClC=1C=C(C(=O)Cl)C=CC1C | C8H6Cl2O
reactant | aluminum chloride | 0.114 mole | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 1-methylpyrrole-2-acetonitrile | 0.114 mole | CN1C(=CC=C1)CC#N | C7H8N2
reactant | HCl | Cl | ClH
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
product | 5-(3'Chloro-p-toluoyl)-1-methylpyrrole-2-acetonitrile | ClC=1C=C(C=CC1C(=O)C1=CC=C(N1C)CC#N)C | C15H13ClN2O
